US07491718B2
2-[(tert-butoxycarbonyl)amino]-6-methylbenzoic acid
A mixture of 2-amino-6-methylbenzoic acid (15 g, 99 mmol), di-tert-butyl dicarbonate (22.7 g 104 mmol) and anhydrous acetonitrile (150 mL) was treated with triethylamine (15.2 mL, 109 mmol) and stirred for 18 hours. The reaction was concentrated and the residue was partitioned between water (800 mL) and dichloromethane (750 mL) and acidified to pH 1 with 1M HCl. The organic layer was separated, washed sequentially with 1M HCl, water, and brine, dried (Na2SO4), filtered and concentrated. The residue was purified by passage through a plug of silica gel (500 g) with 5% methanol in dichloromethane. Concentration afforded the desired product (23.3 g). MS (ESI(+)) m/e 252 (M+H)+, 269 (M+NH4)+, 274 (M+Na)+; (ESI(−)) m/e 250 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ 13.36 (br s, 1H), 8.94 (s, 1H), 7.58 (d, 1H), 7.29 (t, 1H), 6.99 (d, 1H), 2.37 (s, 3H), 1.45 (s, 9H).

reactant | 2-amino-6-methylbenzoic acid | 99 mmol, 15 g | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
reactant | di-tert-butyl dicarbonate | 104 mmol, 22.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 109 mmol, 15.2 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 2-[(tert-butoxycarbonyl)amino]-6-methylbenzoic acid | 23.3 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C(=CC=C1)C | C13H17NO4
